US05776658
7 Preparation of 2-methyl-1-[4-methylthio-2-(2-trimethoxysilylethyl)phenyl]-2-morpholino-1-propanone (7)
11.18 g (40 mmol) of 2-methyl-1-(4-methylthiophenyl)-2-morpholino-1-propanone, 735 mg (0.8 mmol) of RuH2 (CO)(PPh3)3 and 7.3 ml (48 mmol) of vinyltr 60 ml of anhydrous toluene were degased with argon for 1/2 hour and boiled at reflux for 5 hours. After standing overnight, boiling was repeated for 4 hours, then 360 mg (0.4 mmol) of RuH2 (CO)(PPh3)3 and 2 ml (13 mmol) of vinyltrimethoxysilane were added, and the mixture was stirred at reflux for a further 5 hours. Concentration and chromatography (silica gel, CH2Cl2 /ethyl acetate) gave 3.04 g (18%) of a yellowish oil. 1H-NMR (CDCl3): 1.01 ppm (2H, mc, Et-H2); 1.22 ppm (6H, s, Pr-H3, CH3); 2.50 ppm (3H, s, -SCH3); 2.58 ppm (4H, mc, *morpholine--O--CH2); 2.69 ppm (2H, mc, Et-H1); 3.59 ppm (9H, s, Si(OCH3)3); 3.70 ppm (4H, mc, **morpholine--N--CH2); 7.03 ppm (1H, dd, Ph-H5, 3 JH5, H6 =8.4 Hz, 4JH3,h5 =2.0 Hz); 7.11 ppm (1H, d, Ph-H3); 8.47 ppm (1H, d, Ph-H6).

reactant | 2-methyl-1-(4-methylthiophenyl)-2-morpholino-1-propanone | 40 mmol, 11.18 g | CC(C(=O)C1=CC=C(C=C1)SC)(C)N1CCOCC1 | C15H21NO2S
reactant | vinyltrimethoxysilane | 13 mmol, 2 ml | C(=C)[Si](OC)(OC)OC | C5H12O3Si
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-1-[4-methylthio-2-(2-trimethoxysilylethyl)phenyl]-2-morpholino-1-propanone | 3.04 g, 18% | CC(C(=O)C1=C(C=C(C=C1)SC)CC[Si](OC)(OC)OC)(C)N1CCOCC1 | C20H33NO5SSi
